US08012967B2
(i) Methyl 6-[(E)-2-(4-methoxyphenyl)ethenyl]nicotinate
4-Methoxybenzaldehyde (210 mg, 1.52 mmol), methyl 6-methylnicotinate (230 mg, 1.52 mmol), acetic anhydride (310 mg, 3.04 mmol) and catalytic amount of zinc chloride were heated at 140° C. with stirring for 12 h. Ethyl acetate and brine were added to the cooled reaction mixture and the product was extracted. The organic layers were combined, dried (MgSO4) and the solvent removed under reduced pressure. The crude product was applied to a silica gel column and the product was eluted with ethyl acetate/n-hexane (1:1 RF=0.60 fluorescent under the UV lamp). Fractions containing the required product were collected and the solvents removed under reduced pressure to give the sub-title compound as a yellow solid (87 mg, 21%).

reactant | 4-Methoxybenzaldehyde | 1.52 mmol, 210 mg | COC1=CC=C(C=O)C=C1 | C8H8O2
reactant | methyl 6-methylnicotinate | 1.52 mmol, 230 mg | CC1=NC=C(C(=O)OC)C=C1 | C8H9NO2
reactant | acetic anhydride | 3.04 mmol, 310 mg | C(C)(=O)OC(C)=O | C4H6O3
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | brine | [Cl-].[Na+].O
catalyst | zinc chloride | [Cl-].[Zn+2].[Cl-]
product | Methyl 6-[(E)-2-(4-methoxyphenyl)ethenyl]nicotinate | 87 mg, 21% | COC1=CC=C(C=C1)/C=C/C1=NC=C(C(=O)OC)C=C1 | C16H15NO3
